US04031221
A solution of 10.0 of 1-(indol-3ylglyoxyloyl)-4-(m-tolyloxy)piperidine in 205 ml. of tetrahydrofuran is added dropwise to a stirred suspension of 4.8 g of lithium aluminum hydride in 140 ml. of tetrahydrofuran. After the addition is complete, the mixture is stirred and refluxed for 3 hours under nitrogen, cooled, and the excess hydride is carefully destroyed with water. The inorganic precipitate is filtered off and washed with tetrahydrofuran. The filtrate is concentrated, under reduced pressure, to a clear oil which crystallizes to a white solid. The solid is recrystallized from acetonitrile to give white needles of 3-{2-[4-(m-tolyloxy)piperidyl]ethyl}indole, m.p. 145°-146° C.

reactant | 1-(indol-3ylglyoxyloyl)-4-(m-tolyloxy)piperidine | N1C=C(C2=CC=CC=C12)C(C(=O)N1CCC(CC1)OC=1C=C(C=CC1)C)=O | C22H22N2O3
reactant | lithium aluminum hydride | 4.8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-{2-[4-(m-tolyloxy)piperidyl]ethyl}indole | C1(=CC(=CC=C1)OC1CCN(CC1)CCC1=CNC2=CC=CC=C12)C | C22H26N2O
